US05206240
Step B: Preparation of 6-Methanesulfonamido-3,4-dihydrospiro-[(2H)-1-benzopyran-2,3'-piperidine]-4-one hydrochloride
A solution of 7 g (17.47 mmols) of 6-methanesulfonamido-1'-benzyl-3,4-dihydrospiro-[(2H)-1-benzopyran-2,3'-piperidine]-4-one in 250 mL dichloroethane was treated with 5.6 g (43.7 mmole) of diisopropylethylamine, and 6.24 g (43.7 mmoles) of 1-chloroethyl chloroformate. The reaction was stirred at room temperature for 24 hours and then poured into 500 mL saturated sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layers were washed with dilute acid to remove excess diisopropylethylamine. The ethyl acetate solution was then dried over MgSO4, filtered and concentrated in vacuo. The crude material was dissolved in 250 mL CH3OH and heated to reflux for 24 hours. The reaction mixture was cooled to room temperature and the solid collected by filtration to give 4.1 g of product, mp=290° C.

reactant | 6-methanesulfonamido-1'-benzyl-3,4-dihydrospiro-[(2H)-1-benzopyran-2,3'-piperidine]-4-one | 17.47 mmols, 7 g | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CN(CCC3)CC3=CC=CC=C3)O2)=O)C1 | C21H24N2O4S
reactant | diisopropylethylamine | 43.7 mmole, 5.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-chloroethyl chloroformate | 43.7 mmoles, 6.24 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 250 mL | ClC(C)Cl | C2H4Cl2
product | 6-Methanesulfonamido-3,4-dihydrospiro-[(2H)-1-benzopyran-2,3'-piperidine]-4-one hydrochloride | 4.1 g | Cl.CS(=O)(=O)NC=1C=CC2=C(C(CC3(CNCCC3)O2)=O)C1 | InChI=1S/C14H18N2O4S.ClH/c1-21(18,19)16-10-3-4-13-11(7-10)12(17)8-14(20-13)5-2-6-15-9-14;/h3-4,7,15-16H,2,5-6,8-9H2,1H3;1H
